### PR TITLE
[Merged by Bors] - feat: The support of `f ^ n`

### PR DESCRIPTION
**Pull request by YaelDillies**
This involves moving lemmas from `Algebra.GroupPower.Ring` to `Algebra.GroupWithZero.Basic` and changing some `0 < n` assumptions to `n ≠ 0`.

From LeanAPAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GroupPower/Order.lean [hunk 1]
```diff
@@ -405,8 +403,7 @@ section LinearOrderedCommMonoidWithZero
 
 variable [LinearOrderedCommMonoidWithZero M] [NoZeroDivisors M] {a : M} {n : ℕ}
 
-theorem pow_pos_iff (hn : 0 < n) : 0 < a ^ n ↔ 0 < a := by
-  simp_rw [zero_lt_iff, pow_ne_zero_iff hn]
+theorem pow_pos_iff (hn : n ≠ 0) : 0 < a ^ n ↔ 0 < a := by simp_rw [zero_lt_iff, pow_ne_zero_iff hn]
```
Comment (j-loreaux) [inline Mathlib/Algebra/GroupPower/Order.lean:406]: This is very minor, and I'm not asking you to change it now, but in the future it would be nice if these kinds of changes were avoided because they needlessly increase the diff, and, as far as style is concerned, the community guidelines are ambivalent on this issue.

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 2]
```diff
@@ -254,26 +254,26 @@ theorem isAlgebraic_of_adjoin_eq_adjoin {α : E} {m n : ℕ} (hneq : m ≠ n)
...
+      have hn : 0 < n := by linarith only [hm, hmn]
+      have hndvd : ¬ n ∣ n * s.natDegree + m := by
+        rw [← Nat.dvd_add_iff_right (n.dvd_mul_right s.natDegree)]
+        exact Nat.not_dvd_of_pos_of_lt hm hmn
+      simp only [coeff_sub, coeff_X_pow_mul, s.coeff_expand_mul' hn, coeff_natDegree,
+        coeff_expand hn r, hndvd, ite_false, sub_zero]
+      exact leadingCoeff_ne_zero.2 hzero
+    intro h
+    simp only [h, coeff_zero, ne_eq, not_true_eq_false] at this
+  · simp only [map_sub, map_mul, map_pow, aeval_X, expand_aeval, h]
```
Comment (j-loreaux) [inline Mathlib/FieldTheory/PrimitiveElement.lean:276]: the same comment applies here, except in this case I think the style guidelines *do* recommend the `·` with indentation here (i.e., how it was before the edit), so please revert to shrink the diff.

File: Mathlib/RingTheory/WittVector/InitTail.lean [hunk 3]
```diff
@@ -103,11 +103,9 @@ theorem select_add_select_not : ∀ x : 𝕎 R, select P x + select (fun i => ¬
     AlgHom.map_mul, bind₁_X_right, bind₁_C_right, ← Finset.sum_add_distrib, ← mul_add]
   apply Finset.sum_congr rfl
   refine' fun m _ => mul_eq_mul_left_iff.mpr (Or.inl _)
-  rw [ite_pow, zero_pow (pow_pos hp.out.pos _)]
+  rw [ite_pow, zero_pow (pow_ne_zero _ hp.out.ne_zero)]
```
Comment (j-loreaux) [inline Mathlib/RingTheory/WittVector/InitTail.lean:106]: This idiom was repeated a few times in the diff, but I think this is *slightly* nicer (untested):
```suggestion
  rw [ite_pow, zero_pow (pow_pos hp.out.pos _).ne']
```
It's possible I'm missing something though.

**Review by j-loreaux — COMMENTED** [review]
Overall very nice thanks! Only some minor comments.

bors d+

File: Mathlib/FieldTheory/PrimitiveElement.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/FieldTheory/PrimitiveElement.lean:276]: No, the style guide says `·` can (and probably should) be removed when one branch is much longer than the other ones.

File: Mathlib/Algebra/GroupPower/Order.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupPower/Order.lean:406]: It doesn't increase the diff here given that those lines were already modified.

File: Mathlib/RingTheory/WittVector/InitTail.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/WittVector/InitTail.lean:106]: I understand the idea, but I'm not sure this is better. The "correct" proof of course is
```suggestion
  rw [ite_pow, zero_pow (by positivity)]
```
but I haven't made it work yet (nor am I sure I can make it work without a performance penalty, actually). I am happy to wait for this to be figured out before merging this PR if you think that's important.

**Comment by YaelDillies** [comment]
bors merge
